US09086390B2
54.0 g (0.46 mol) of 4-aminobenzonitrile and 106.5 g (0.92 mol) of sodium chloroacetate were suspended in 750 mL of water, and the resulting mixture was stirred at reflux temperature for 4 hours. After cooling to room temperature, pH was adjusted to 8-9 with sodium bicarbonate. The resulting solution was washed with 2×200 mL of ethyl acetate, and 5M hydrochloric acid was added to the aqueous phase until pH=3. The precipitated solid was isolated by filtration, washed with 100 mL of water and dried to yield 57.1 g of 2-(4-cyanophenylamino)acetic acid as an off-white solid. Yield: 70.9%. Purity (HPLC, method 3): 88.4%.

reactant | 4-aminobenzonitrile | 0.46 mol, 54.0 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | sodium chloroacetate | 0.92 mol, 106.5 g | ClCC(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 750 mL | O | H2O
product | 2-(4-cyanophenylamino)acetic acid | 57.1 g, Yield: 70.9% | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
